US07935688B2
(1) Synthesis of 3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-pentan-3-ol
10% palladium carbon (20 mg) was added to a solution of (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol (Example 39-(5); 50.5 mg, 0.106 mmol) in methanol (4 mL), and the mixture was stirred in a hydrogen atmosphere at room temperature for four hours. Then, the reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to give the target compound (48.8 mg, 96%).

reactant | (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol | 0.106 mmol, 50.5 mg | C(C)C(/C=C/C1=C(C=C(C=C1)C(CC)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC)C)(CC)O | C31H45BO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium carbon | 20 mg | [C].[Pd]
product | 3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-pentan-3-ol | 48.8 mg, 96% | C(C)C(CCC1=C(C=C(C=C1)C(CC)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC)C)(CC)O | C31H47BO3
